US09062070B2
3-Bromo-2-chloro-6-fluorobenzonitrile (15.4 g, 65.6 mmol), potassium vinyl trifluoroborate (17.6 g, 131 mmol), triethylamine (18.3 mL, 131 mmol) and PdCl2(dppf)-CH2Cl2 adduct (2.68 g, 3.28 mmol) were added to ethanol (75 mL) then degassed and heated at reflux for 3 h. The reaction was diluted with ethyl acetate and washed with brine, dried and evaporated to dryness. The product was purified by chromatography through a 330 g ISCO Redi-Sep column with 10% ethyl acetate/hexane solvent system to yield 2-chloro-6-fluoro-3-vinylbenzonitrile.

reactant | 3-Bromo-2-chloro-6-fluorobenzonitrile | 65.6 mmol, 15.4 g | BrC=1C(=C(C#N)C(=CC1)F)Cl | C7H2BrClFN
reactant | triethylamine | 131 mmol, 18.3 mL | C(C)N(CC)CC | C6H15N
catalyst | PdCl2(dppf) CH2Cl2 | 3.28 mmol, 2.68 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 2-chloro-6-fluoro-3-vinylbenzonitrile | ClC1=C(C#N)C(=CC=C1C=C)F | C9H5ClFN
